US04656269
To a solution of 3.22 g of (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid and 3.08 ml of triethylamine in 30 ml of water was added a solution of 5.41 g of 2-(tert-butyloxycarbonyloxyimino)-2-phenylacetonitrile in 30 ml of dioxane, and the mixture was stirred ofr 16 hours at room temperature. To the reaction mixture was added 100 ml of water, and the mixture was extracted with ethyl acetate to remove neutral material. The aqueous layer was acidified with an aqueous citric acid solution and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to obtain 5.10 g of (2RS, 3S)-3-tert-butyloxycarbonylamino-2-hydroxy-5-methylhexanoic acid as a pale yellow oil.

reactant | (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid | 3.22 g | N[C@H](C(C(=O)O)O)CC(C)C | C7H15NO3
reactant | triethylamine | 3.08 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butyloxycarbonyloxyimino)-2-phenylacetonitrile | 5.41 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | water | 30 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | (2RS, 3S)-3-tert-butyloxycarbonylamino-2-hydroxy-5-methylhexanoic acid | 5.10 g | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)O)O)CC(C)C | C12H23NO5
